US07408065B2
b) 1-[6-Chloro-5-[(3-cyclopentyl-1-oxopropyl)amino]-2-quinolinyl]-4-piperidinecarboxylic Acid, Ethyl Ester
Prepared according to the method of example 62(a), using cyclopentanepropanoic acid (256 mg) and 1-(5-amino-6-chloro-2-quinolinyl)-4-piperidinecarboxylic acid, ethyl ester Example 77(a)) (200 mg), to afford the sub-titled compound (240 mg).

reactant | cyclopentanepropanoic acid | 256 mg | C1(CCCC1)CCC(=O)O | C8H14O2
reactant | 1-(5-amino-6-chloro-2-quinolinyl)-4-piperidinecarboxylic acid, ethyl ester | NC1=C2C=CC(=NC2=CC=C1Cl)N1CCC(CC1)C(=O)OCC | C17H20ClN3O2
product | 1-[6-Chloro-5-[(3-cyclopentyl-1-oxopropyl)amino]-2-quinolinyl]-4-piperidinecarboxylic Acid, Ethyl Ester | 240 mg | ClC=1C(=C2C=CC(=NC2=CC1)N1CCC(CC1)C(=O)OCC)NC(CCC1CCCC1)=O | C25H32ClN3O3
